US07790714B2
(S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-6-((S)-1-phenyl-propyl)-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carboxylic acid (31.6 mg) was coupled with (S)-2-amino-3-(4′-cyano-biphenyl-4-yl)-2-methyl-propionic acid methyl ester (14.7 mg) following general procedure 0 to provide (S)-3-(4′-Cyano-biphenyl-4-yl)-2-{[(S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-6-((S)-1-phenyl-propyl)-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl]-amino}-2-methyl-propionic acid methyl ester (LC-MS (m/z): 909). Title compound was prepared from (S)-3-(4′-Cyano-biphenyl-4-yl)-2-{[(S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-6-((S)-1-phenyl-propyl)-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl]-amino}-2-methyl-propionic acid methyl ester (25 mg) following general procedure B. LC-MS (m/z): 893.

reactant | (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-6-((S)-1-phenyl-propyl)-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carboxylic acid | 31.6 mg | ClC=1C=C(COC2=CC=C(C=C2)[C@H]2C(N(C3=CC=4CC(N(CC4C=C3O2)[C@@H](CC)C2=CC=CC=C2)C(=O)O)C)=O)C=CC1Cl | C35H32Cl2N2O5
reactant | (S)-2-amino-3-(4′-cyano-biphenyl-4-yl)-2-methyl-propionic acid methyl ester | 14.7 mg | COC([C@@](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)(C)N)=O | C18H18N2O2
product | (S)-3-(4′-Cyano-biphenyl-4-yl)-2-{[(S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-6-((S)-1-phenyl-propyl)-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl]-amino}-2-methyl-propionic acid methyl ester | COC([C@@](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)(C)NC(=O)C1N(CC=2C=C3O[C@H](C(N(C3=CC2C1)C)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl)[C@@H](CC)C1=CC=CC=C1)=O | C53H48Cl2N4O6
